US04011225
3-methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide
3-Methyl-8-cyano-5,6,7,8-tetrahydroquinoline (1.7 g., 0.01 m.) and thioacetamide (1.5 g., 0.02 m.) were dissolved in dimethylformamide (50 ml.), the solution saturated with dry hydrogen chloride gas and then heated on a steam bath for 4 hours. The cooled reaction mixture was poured onto water (200 ml.), washed with ethyl acetate (2 × 200 ml.) and the extracts discarded. The aqueous solution was adjusted to pH 10.0 with 46% sodium hydroxide and extracted into methylene chloride (2 × 200 ml.). The combined extracts were dried (sodium sulphate), evaporated in vacuo and the residual oil triturated with isopropanol and filtered. Recrystallisation from benzene gave the title compound as pale yellow needles (1.3 g., 63%) m.p. 149°.

reactant | 3-Methyl-8-cyano-5,6,7,8-tetrahydroquinoline | 1.7 g | CC=1C=NC=2C(CCCC2C1)C#N | C11H12N2
reactant | thioacetamide | 1.5 g | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | 1.3 g, 63% | CC=1C=NC=2C(CCCC2C1)C(N)=S | C11H14N2S
